US07018988B2
(2S,4EZ)-N-(2-furylmethyl)-4-(methoxyimino)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride, and 2-furylmethylamine the title compound was obtained in 62% purity by LC/MS. MS(ESI+): m/z=430.4.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 2-oxo-6-pentyl-2H-pyran-3-carbonyl chloride | O=C1OC(=CC=C1C(=O)Cl)CCCCC | C11H13ClO3
reactant | 2-furylmethylamine | O1C(=CC=C1)CN | C5H7NO
product | (2S,4EZ)-N-(2-furylmethyl)-4-(methoxyimino)-1-[(2-oxo-6-pentyl-2H-pyran-3-yl)carbonyl]-2-pyrrolidinecarboxamide | O1C(=CC=C1)CNC(=O)[C@H]1N(CC(C1)=NOC)C(=O)C=1C(OC(=CC1)CCCCC)=O | C22H27N3O6
